US05254716
1.12 Grams (6.36 mmol) of chlorodimethoxytriazine was added to a solution of 1.91 grams (6.36 mmol) of 4-(2-[2-amino-4,5,6,7-tetrahydro-4-oxo-3H-pyrrolo[2,3-d]pyrimidin-5-yl]ethyl)benzoic acid and 0.63 grams (6.3 mmol) of N-methylmorpholine (NMM) in 20 ml of dimethylformamide (DMF) at room temperature. The resulting mixture was stirred at room temperature for 2 hours. Next, an additional 0.3 grams (2.97 mmol) of NMM and 0.22 grams (1.25 mmol) of chlorodimethoxytriazine was added.to the solution and the mixture stirred for an additional 30 min. Then, 0.64 grams (6.3 mmol) of NMM and 1.52 grams (6.3 mmol) of diethyl-L-glutamate hydrochloride was added to the mixture. After stirring overnight at room temperature, the resulting suspension was mixed with 30 grams of silica gel and dried under vacuum. The residue was added to a column of 70 grams silica gel and eluted with 500 ml of CH2Cl2 -EtOH 90:10 followed by CH2Cl2 -EtOH 80:20. 1.62 Grams (52%) of purified N-[4-[2-(2-amino-4,5,6,7-tetrahydro-4-oxo-3H-pyrrolo[2,3-d]pyrimidin-5-yl)ethyl]benzoyl]-L-glutamic acid diethyl ester was obtained as a colorless powder. Selected data: 1H NMR (DMSO-d6) δ 9.55 (s, 1H), 8.60 (d, J=7.4 Hz, 1 H), 7.73 (d, J=8.3 Hz, 2H) 7.27 (d, J=8.3 Hz, 2H), 6.28 (s, 1H), 6.20 (s, 2H), 4.38 (m, 1H), 4.05 (q, J=7.1 Hz, 2H), 3.99 (q, J=7.1 Hz, 2H), 3.40 (m, 1H), 3.02 (m, 2H), 2.65 (t, J=7.6 Hz, 2H), 2.39 (t, J=7.5 Hz, 2H), 2.00 (m, 3H), 1.54 (m, 1H), 1.13 (t, J=7.1 Hz, 3H), 1.11 (t, J=7.1 Hz, 3H).

reactant | chlorodimethoxytriazine | 6.36 mmol | ClC=1C(=NN=NC1OC)OC | C5H6ClN3O2
reactant | 4-(2-[2-amino-4,5,6,7-tetrahydro-4-oxo-3H-pyrrolo[2,3-d]pyrimidin-5-yl]ethyl)benzoic acid | 6.36 mmol, 1.91 grams | NC=1NC(C2=C(N1)NCC2CCC2=CC=C(C(=O)O)C=C2)=O | C15H16N4O3
reactant | N-methylmorpholine | 6.3 mmol, 0.63 grams | CN1CCOCC1 | C5H11NO
reactant | NMM | 2.97 mmol, 0.3 grams | CN1CCOCC1 | C5H11NO
reactant | chlorodimethoxytriazine | 1.25 mmol, 0.22 grams | ClC=1C(=NN=NC1OC)OC | C5H6ClN3O2
reactant | NMM | 6.3 mmol, 0.64 grams | CN1CCOCC1 | C5H11NO
reactant | diethyl-L-glutamate hydrochloride | 6.3 mmol, 1.52 grams | Cl.C(C)OC([C@@H](N)CCC(=O)OCC)=O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-[4-[2-(2-amino-4,5,6,7-tetrahydro-4-oxo-3H-pyrrolo[2,3-d]pyrimidin-5-yl)ethyl]benzoyl]-L-glutamic acid diethyl ester | 52% | C(C)OC([C@@H](NC(C1=CC=C(C=C1)CCC1CNC=2N=C(NC(C21)=O)N)=O)CCC(=O)OCC)=O | C24H31N5O6
